.IF (select = 0)
    V1  g 0 dc {VG} ac 1 0
    V2  s 0 dc {VS}
    V3  d 0 dc {VD}
    V4  b 0 dc {VB}
.ELSEIF (select = 1)
    V1  g 0 dc {VG}
    V2  s 0 dc {VS} ac 1 0
    V3  d 0 dc {VD}
    V4  b 0 dc {VB}
.ELSEIF (select = 2)
    V1  g 0 dc {VG}
    V2  s 0 dc {VS}
    V3  d 0 dc {VD} ac 1 0
    V4  b 0 dc {VB}
.ELSEIF (select = 3)
    V1  g 0 dc {VG}
    V2  s 0 dc {VS}
    V3  d 0 dc {VD} 
    V4  b 0 dc {VB} ac 1 0
.ENDIF

.ac lin 1 {freq} {freq}

.options filetype=ascii

.csparam freq   = {freq}
.csparam Vstart = {Vstart}
.csparam Vdelta = {Vdelta}
.csparam num    = {num}

.control

let VG     = Vstart
let Cgg    = vector(num) ; total capacitance at the gate
let Cgs    = vector(num) ; gate-source capacitance
let Cgd    = vector(num) ; gate-drain capacitance
let Cgb    = vector(num) ; gate-bulk capacitance
let ggd    = vector(num) ; gate-drain transconductance
let Css    = vector(num) ; total capacitance at the source
let Csg    = vector(num) ; source-gate capacitance
let Csb    = vector(num) ; source-bulk capacitance
let Csd    = vector(num) ; source-drain capacitance
let Cdd    = vector(num) ; total capacitance at the drain
let Cdg    = vector(num) ; drain-gate capacitance
let Cdb    = vector(num) ; drain-bulk capacitance
let Cds    = vector(num) ; drain-source capacitance
let gdd    = vector(num) ; totalk conductance at the drain
let gss    = vector(num) ; total conductance at the source
let Cbb    = vector(num) ; total capacitance at the bulk
let Cbs    = vector(num) ; bulk-source capacitance
let Cbd    = vector(num) ; bulk-drain capacitance
let Cbg    = vector(num) ; bulk-gate capacitance
let gbd    = vector(num) ; bulk-drain transconductance
let bias   = vector(num) ; gate-source operating voltage
let ids    = vector(num) ; drain-source operating current
let idx    = 0

alterparam select = 0
reset

repeat $&num
  alter V1 $&VG
  run
  let Cgg[idx]  = -imag(V1#branch)/(2*PI*freq)
  let Cgs[idx]  = imag(V2#branch)/(2*PI*freq)
  let Cgd[idx]  = imag(V3#branch)/(2*PI*freq)
  let Cgb[idx]  = imag(V4#branch)/(2*PI*freq)
  let ggd[idx]  = -real(V3#branch)
  let bias[idx] = VG
  let VG = VG + Vdelta
  let idx = idx + 1
end

let VG     = Vstart
let idx    = 0

repeat $&num
  alter V1 $&VG
  op
  let ids[idx] = @M1[id]
  let VG = VG + Vdelta
  let idx = idx + 1
end

alterparam select = 1
reset

let VG     = Vstart
let idx    = 0

repeat $&num
  alter V1 $&VG
  run
  let Css[idx]  = -imag(V2#branch)/(2*PI*freq)
  let Csg[idx]  = imag(V1#branch)/(2*PI*freq)
  let Csb[idx]  = imag(V4#branch)/(2*PI*freq)
  let Csd[idx]  = imag(V3#branch)/(2*PI*freq)
  let gss[idx]  = -real(V2#branch)
  let bias[idx] = VG
  let VG = VG + Vdelta
  let idx = idx + 1
end

alterparam select = 2
reset

let VG     = Vstart
let idx    = 0

repeat $&num
  alter V1 $&VG
  run
  let Cdd[idx]  = -imag(V3#branch)/(2*PI*freq)
  let Cdg[idx]  = imag(V1#branch)/(2*PI*freq)
  let Cdb[idx]  = imag(V4#branch)/(2*PI*freq)
  let Cds[idx]  = imag(V2#branch)/(2*PI*freq)
  let gdd[idx]  = -real(V3#branch)
  let bias[idx] = VG
  let VG = VG + Vdelta
  let idx = idx + 1B
end

alterparam select = 3
reset

let VG     = Vstart
let idx    = 0

repeat $&num
  alter V1 $&VG
  run
  let Cbb[idx]  = -imag(V4#branch)/(2*PI*freq)
  let Cbs[idx]  = imag(V2#branch)/(2*PI*freq)
  let Cbd[idx]  = imag(V3#branch)/(2*PI*freq)
  let Cbg[idx]  = imag(V1#branch)/(2*PI*freq)
  let gbd[idx]  = -real(V3#branch)
  let bias[idx] = VG
  let VG = VG + Vdelta
  let idx = idx + 1
end

settype current ids
settype voltage bias
settype admittance ggd
settype capacitance Cgg
settype capacitance Cgs
settype capacitance Cgd
settype capacitance Cgb
settype admittance gss
settype capacitance Css
settype capacitance Csg
settype capacitance Csb
settype capacitance Csd
settype admittance gdd
settype capacitance Cdd
settype capacitance Cdg
settype capacitance Cdb
settype capacitance Cds
settype admittance gbd
settype capacitance Cbb
settype capacitance Cbs
settype capacitance Cbd
settype capacitance Cbg

write MOS_OP.out bias Cgg Cgs Cgd Cgb ggd Css Csg Csb Csd gss Cdd Cdg Cdb Cds gdd Cbb Cbs Cbd Cbg gbd ids

*plot ids  vs bias ylabel Ids
*plot ggd  vs ids  ylabel ggd
*plot Cgg  vs ids  ylabel Cgg
*plot Cgs  vs ids  ylabel Cgs
*plot Cgd  vs ids  ylabel Cgd
*plot Cgb  vs ids  ylabel Cgb
*plot gss  vs ids  ylabel gss
*plot Css  vs ids  ylabel Css
*plot Csg  vs ids  ylabel Csg
*plot Csb  vs ids  ylabel Csb
*plot Csd  vs ids  ylabel Csd
*plot gdd  vs ids  ylabel gdd
*plot Cdd  vs ids  ylabel Cdd
*plot Cdg  vs ids  ylabel Cdg
*plot Cdb  vs ids  ylabel Cdb
*plot Cds  vs ids  ylabel Cds
*plot gbd  vs ids  ylabel gbd
*plot Cbb  vs ids  ylabel Cbb
*plot Cbs  vs ids  ylabel Cbs
*plot Cbd  vs ids  ylabel Cbd
*plot Cbg  vs ids  ylabel Cbg

.endc
.end
